US08541411B2
Preparation of 1-(1-benzothien-7-ylmethyl)-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid
To a solution of methyl 2-methyl-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate, prepared as described in Example 26, step d (0.2 g, 0.726 mmol) in N,N-Dimethylformamide (DMF) (10 mL) was added 7-(bromomethyl)-1-benzothiophene (0.247 g, 1.090 mmol) and potassium carbonate (0.301 g, 2.179 mmol). The resulting reaction mixture was stirred for 3 h at 80° C. An additional amount of 7-(bromomethyl)-1-benzothiophene (0.247 g, 1.090 mmol) was added and mixture was stirred for 3 h at 80° C. The solution was cooled to room temperature and poured into water and extracted with EtOAc. The combined organic phase was washed with brine and concentrated. The residue was purified on Biotage Isolera purification system using a Biotage 10 g SNAP silica gel cartridge and eluted with a gradient of DCM to 5% MeOH/DCM over 10 column volumes. The expected compound was collected and evaporated to yield a tan solid. The tan solid was dissolved in tetrahydrofuran (THF) (10.00 mL) followed by the addition of 1M lithium hydroxide solution (10 mL, 10 mmol). The reaction was found to be incomplete so the solution was neutralized with 1M HCl and evaporated. The residue was dissolved in 5 mL of methanol and treated with 1N NaOH for 2 h at 50° C., which resulted in a complete reaction. The reaction was cooled to room temperature and the organic solvent was removed in vacuo. The solution was diluted with water (20 mL) and acidified with 1 N HCl. The mixture was then filtered and the yellow solid was isolated. The aqueous layer was found to contain a significant amount of product and was evaporated. Both solid and residue were purified by reversed phase chromatography with a gradient of acetonitrile (0.1% TFA) and water (0.1% TFA v/v) (10-45%) over 10 minutes. The appropriate fractions were collected and evaporated to the desired product (27.9 mg, 0.068 mmol, 9.42% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.76 (s, 3H) 3.14-3.21 (m, 4H) 3.71-3.76 (m, 4H) 6.01 (s, 2H) 7.06 (d, J=7.07 Hz, 1H) 7.36-7.44 (m, 1H) 7.56-7.62 (m, 2H) 7.71 (d, J=2.27 Hz, 1H) 7.83 (d, J=5.31 Hz, 1H) 7.92 (d, 1H). MS (ES+) m/e 408.1 [M+H]+.

reactant | methyl 2-methyl-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate | CC1=NC2=C(N1)C(=CC(=C2)N2CCOCC2)C(=O)OC | C14H17N3O3
reactant | 7-(bromomethyl)-1-benzothiophene | 1.090 mmol, 0.247 g | BrCC1=CC=CC=2C=CSC21 | C9H7BrS
reactant | potassium carbonate | 2.179 mmol, 0.301 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-(bromomethyl)-1-benzothiophene | 1.090 mmol, 0.247 g | BrCC1=CC=CC=2C=CSC21 | C9H7BrS
reactant | lithium hydroxide | 10 mmol, 1M, 10 mL | [OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
solvent | N,N-Dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10.00 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(1-benzothien-7-ylmethyl)-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid | 0.068 mmol, 27.9 mg, 9.42% yield | S1C=CC2=C1C(=CC=C2)CN2C(=NC1=C2C=C(C=C1C(=O)O)N1CCOCC1)C | C22H21N3O3S
